US08217069B2
A mixture of diethyl malonate (4.8 mL), triethyl orthoacetate (17 mL), acetic anhydride (0.11 mL) and zinc chloride (1.2 g) was stirred at 140° C. To the mixture was added acetic anhydride (0.11 mL) each after 30, 90 and 120 minutes, and then stirred at the same temperature overnight. The reaction mixture was cooled to room temperature, and the insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1−7/3) to give diethyl 2-(1-ethoxyethylidene)malonate (5.02 g). To a solution of diethyl 2-(1-ethoxyethylidene)malonate (4.13 g) in ethanol (15 mL) were added formamidine hydrochloride (1.73 g) and a solution of potassium hydroxide (2.21 g) in water (7.5 mL), and the mixture was stirred at room temperature for 2 days. The reaction mixture was neutralized by adding acetic acid. To the mixture was added ethyl acetate (30 mL), and the mixture was stirred at room temperature for 30 minutes. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate−ethyl acetate/methanol=9/1) to give the title compound (1.5 g).

reactant | diethyl malonate | 4.8 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | triethyl orthoacetate | 17 mL | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | acetic anhydride | 0.11 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.11 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | 1.2 g | [Cl-].[Zn+2].[Cl-]
product | diethyl 2-(1-ethoxyethylidene)malonate | 5.02 g | C(C)OC(C)=C(C(=O)OCC)C(=O)OCC | C11H18O5
